US06087380
1-Methyl-2-[N-(4-amidino-2-methoxy-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyano-2-methoxy-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide and ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 89% of theory, C29H32N6O4 (528.6) Rf value: 0.13 (silica gel; dichloromethane/ethanol=4:1) ##EQU129##

reactant | 1-methyl-2-[N-(4-cyano-2-methoxy-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=C(C=C(C=C2)C#N)OC)C)C=C1)CCC(=O)OCC | C29H29N5O4
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-(4-amidino-2-methoxy-phenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 89% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=C(C=C(C=C2)C(N)=N)OC)C)C=C1)CCC(=O)OCC | InChI=1S/C29H32N6O4.ClH/c1-4-39-27(36)14-15-35(21-8-6-5-7-9-21)29(37)20-11-13-24-23(16-20)33-26(34(24)2)18-32-22-12-10-19(28(30)31)17-25(22)38-3;/h5-13,16-17,32H,4,14-15,18H2,1-3H3,(H3,30,31);1H
